US05780437
{2-[2-(3,5-dimethylphenyl)-5-(5-isobutyl-[1,2,4]oxadiazol-3-yl)-1H-indol-3-yl]ethyl}-(4-pyridin-3-yl-butyl)amine
To a solution of 2-[2-(3,5-dimethylphenyl)-5-(5-isobutyl-[1,2,4]oxadiazol-3-yl)-1H-indol-3-yl]ethylamine (22 mg in 1.5 mL chloroform) at 0° C. was added anhydrous magnesium sulfate (38 nrg) followed by 4-(3-pyridyl)-butanal (11 mg) and the mixture stirred at low temperature for 15 minutes. At this time sodium borohydride (3.7 mg in 0.50 mL methanol) was added and the mixture stirred at 0° C. After 30 minutes, the reaction was quenched by the addition of water and the mixture extracted with ethyl acetate The organic portion was washed successively with saturated potassium carbonate and brine then dried over sodium sulfate. Purification of the concentrate by flash chromatography on silica gel (methylene chloride: methanol, 92:8) gave the title compound (26.5 mg). m/e=522 (M+H)

reactant | 2-[2-(3,5-dimethylphenyl)-5-(5-isobutyl-[1,2,4]oxadiazol-3-yl)-1H-indol-3-yl]ethylamine | 1.5 mL, 22 mg | CC=1C=C(C=C(C1)C)C=1NC2=CC=C(C=C2C1CCN)C1=NOC(=N1)CC(C)C | C24H28N4O
reactant | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | 4-(3-pyridyl)-butanal | 11 mg | N1=CC(=CC=C1)CCCC=O | C9H11NO
reactant | sodium borohydride | 0.50 mL, 3.7 mg | [BH4-].[Na+]
product | {2-[2-(3,5-dimethylphenyl)-5-(5-isobutyl-[1,2,4]oxadiazol-3-yl)-1H-indol-3-yl]ethyl}-(4-pyridin-3-yl-butyl)amine | 26.5 mg | CC=1C=C(C=C(C1)C)C=1NC2=CC=C(C=C2C1CCNCCCCC=1C=NC=CC1)C1=NOC(=N1)CC(C)C | C33H39N5O
